US09233977B2
Step 3: 3-(Methylsulfanyl)-5-(propan-2-yl)-1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one
To a solution of 3-(methylsulfanyl)-1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one (30 mg, 0.076 mmol) in DMF (0.7 mL) at 0° C. was added NaH (1.8 mg, 0.076 mmol). After 10 min, 2-iodopropane (13 mg, 0.076 mmol) was added and the reaction mixture was stirred at rt overnight, The resulting mixture was concentrated and purified directly by silica gel chromatography (gradient elution, 0-40% EtOAc/hexanes) to afford the title compound. LRMS (ESI) m/z 438.0 [(M+H)+; calcd for C20H31N3O2S2Si: 438].

reactant | 3-(methylsulfanyl)-1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one | 0.076 mmol, 30 mg | CSC=1SC(=C2C1C(NCC2)=O)C2=NN(C=C2)COCC[Si](C)(C)C | C17H25N3O2S2Si
reactant | NaH | 0.076 mmol, 1.8 mg | [H-].[Na+]
reactant | 2-iodopropane | 0.076 mmol, 13 mg | IC(C)C | C3H7I
solvent | DMF | 0.7 mL | CN(C)C=O | C3H7NO
product | 3-(Methylsulfanyl)-5-(propan-2-yl)-1-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-pyrazol-3-yl)-6,7-dihydrothieno[3,4-c]pyridin-4(5H)-one | CSC=1SC(=C2C1C(N(CC2)C(C)C)=O)C2=NN(C=C2)COCC[Si](C)(C)C | C20H31N3O2S2Si
